US04229443
A. 3-Methyloxycarbonylphthalimide
To a suspension of 3-carboxyphthalimide (10 g) in ether (50 ml), a solution of diazomethane in ether was added slowly until a faint yellow colouration persisted. Excess of diazomethane was destroyed with acetic acid and the reaction mixture was evaporated to yield the desired compound.

reactant | 3-carboxyphthalimide | 10 g | C(=O)(O)C1=C2C(C(=O)NC2=O)=CC=C1 | C9H5NO4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-Methyloxycarbonylphthalimide | COC(=O)C1=C2C(C(=O)NC2=O)=CC=C1 | C10H7NO4
